US07754727B2
C. (3R,4R)-4-Biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid ethyl ester
To a vigorously stirred solution of the title B compound, (3S,4S)-4-biphenyl-3-yl-3,4-dihydroxy-piperidine-1-carboxylic acid ethyl ester (4.2 g, 12.05 mmol) in EtOH (250 mL) is added 6.5 g Raney-Nickel. The stirred suspension is heated to reflux for 4 h, then allowed to cool to room temperature, filtered over a celite pad and rinsed with EtOH. The solvent is removed under reduced pressure and purification by flash column chromatography (hexane/EtOAc 4/1 to 1/2) affords the desired product: (3R,4R)-4-Biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid ethyl ester. TLC, Rf (Hexane/EtOAc 2/1)=0.65. MS 326.1 [M+H]. Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 5.62 min.

reactant | (3S,4S)-4-biphenyl-3-yl-3,4-dihydroxy-piperidine-1-carboxylic acid ethyl ester | 12.05 mmol, 4.2 g | C(C)OC(=O)N1C[C@@H]([C@@](CC1)(O)C=1C=C(C=CC1)C1=CC=CC=C1)O | C20H23NO4
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Raney-Nickel | 6.5 g | [Ni] | Ni
product | (3R,4R)-4-Biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)O | C20H23NO3
